US08217064B2
Ethyl 1-(6-chloro-5-(cyclopropylmethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)cyclobutanecarboxylate (0.1 g) dissolved in MeOH/THF/H2O (10 mL/10 mL/5 mL) and 70 mg LiOH added. The reaction mixture was stirred at room temperature for 5 h and concentrated under reduced pressure. Water (10 mL) was added and the reaction mixture was extracted with EtOAc (3×10 mL). The combined organic extracts were dried over MgSO4, filtered and evaporated under reduced pressure. Purification by column chromatography over silica gel (hexane/EtOAc 9:1) gave 1-(6-chloro-5-(cyclopropylmethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)cyclobutanecarboxylic acid (75 mg) as a white solid. 1H-NMR (500 MHz, CDCl3): 7.71 (d, 2H), 7.54 (d, 2H), 6.86 (s, 1H), 6.85 (s, 1H), 3.97 (d, 2H), 2.85 (m, 2H), 2.54 (m, 2H), 2.13 (m, 1H), 1.92 (m, 1H), 1.35 (t, 1H), 0.47 (m, 2H), 0.41 (m, 2H).

reactant | Ethyl 1-(6-chloro-5-(cyclopropylmethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)cyclobutanecarboxylate | 0.1 g | ClC1=C(C=C(C=C1C1=CC=C(C=C1)C(F)(F)F)C1(CCC1)C(=O)OCC)OCC1CC1 | C24H24ClF3O3
reactant | LiOH | 70 mg | [Li+].[OH-]
solvent | MeOH THF H2O | 10 mL | CO.C1CCOC1.O
product | 1-(6-chloro-5-(cyclopropylmethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)cyclobutanecarboxylic acid | 75 mg | ClC1=C(C=C(C=C1C1=CC=C(C=C1)C(F)(F)F)C1(CCC1)C(=O)O)OCC1CC1 | C22H20ClF3O3
